US09227967B2
4-[(3,3-Difluoropyrrolidin-1-yl)methyl]pyridin-3-amine
3-Amino-pyridine-4-carbaldehyde (250 mg, 2.05 mmol) was dissolved in DCM (4 mL) and MeOH (4 mL), and 3,3-difluoropyrrolidine hydrochloride (353 mg, 2.46 mmol) and NaBH(OAc)3 (521 mg, 2.46 mmol) were added. The reaction mixture was stirred for 18 h, quenched with water (5 mL) and the solvents were removed in vacuo. The residue was dissolved in DCM (20 mL) and washed with sat aq Na2CO3 (5 mL). The aqueous phase was extracted with DCM (3×20 mL) and the combined organic fractions were dried (MgSO4) and concentrated in vacuo to give the crude title compound as a yellow gum (246 mg, 56%). LCMS (ES+): 214.0 (M+H)+.

reactant | 3-Amino-pyridine-4-carbaldehyde | 2.05 mmol, 250 mg | NC=1C=NC=CC1C=O | C6H6N2O
reactant | 3,3-difluoropyrrolidine hydrochloride | 2.46 mmol, 353 mg | Cl.FC1(CNCC1)F
reactant | NaBH(OAc)3 | 2.46 mmol, 521 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 4 mL | CO | CH4O
product | 4-[(3,3-Difluoropyrrolidin-1-yl)methyl]pyridin-3-amine | 246 mg, 56% | FC1(CN(CC1)CC1=C(C=NC=C1)N)F | C10H13F2N3
